US08304036B2
A solution of LiTMP (comprising 3.9 ml (22.9 mmol) of TMP and 14.0 ml (22.3 mmol, 15% soln. in hexane) of n-BuLi) is added to 6.8 g (20.3 mmol) of 2-(4-ethoxy-2,3-difluorophenyl)tellurophene in 70 ml of THF at 0° C. The mixture is stirred at this temperature for 1 h. The solution is cooled to −60° C., and N-formylmorpholine is added. The reaction mixture is warmed to 0° C. and stirred for 1 h. Water and 2 N hydrochloric acid are added, and the mixture is extracted with MTBE. The organic phase is washed with sodium chloride and dried using sodium sulfate. The solution is concentrated to dryness, and the residue is recrystallised from toluene. Drying in vacuo gives 5-(4-ethoxy-2,3-difluorophenyl)tellurophene-2-carbaldehyde as a brown solid.

reactant | LiTMP | 22.9 mmol, 3.9 ml | [Li]N1C(CCCC1(C)C)(C)C
reactant | n-BuLi | 22.3 mmol | [Li]CCCC
reactant | 2-(4-ethoxy-2,3-difluorophenyl)tellurophene | 20.3 mmol, 6.8 g | C(C)OC1=C(C(=C(C=C1)C=1[Te]C=CC1)F)F | C12H10F2OTe
reactant | N-formylmorpholine | C(=O)N1CCOCC1 | C5H9NO2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 5-(4-ethoxy-2,3-difluorophenyl)tellurophene-2-carbaldehyde | C(C)OC1=C(C(=C(C=C1)C1=CC=C([Te]1)C=O)F)F | C13H10F2O2Te
